US07105679B2
Following the procedure described in Examples 76, 2-(tert-Butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-ol, the compound prepared as in Example 105 above, was reacted with 1-[2-(4-Iodo-phenoxy)-ethyl]-piperidine to yield 2-(8-(tert-Butyl-dimethyl-silyloxy)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-2,3-dihydro-benzo[b]oxepin-4-yl)-phenol as a crude oil. The crude 2-(8-(tert-Butyl-dimethyl-silyloxy)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-2,3-dihydro-benzo[b]oxepin-4-yl)-phenol was then further treated with HCl (12N, 4 eq., 0.67 mL) in toluene (100 mL) to generate yield 1-(2-{4-[2-(tert-Butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-yl]-phenoxy}-ethyl)-piperidine as a crude oil. The crude 1-(2-{4-[2-(tert-Butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-yl]-phenoxy}-ethyl)-piperidine was then further treated with HF•Pyridine (70% HF, 30% Pyridine, 0.5 mL) in CH3CN (20 mL) at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate:THF (1:1) and then washed with 5% NaHCO3 and brine. The reaction mixture was dried, concentrated and purified by flash chromatograph eluted with 5% MeOH in DCM to yield the title compound as a slightly yellow solid.

reactant | 2-(tert-Butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-ol | C(C)(C)(C)[Si](OC1=CC2=C(C3=C(C4=CC=CC=C4OC3O)CCO2)C=C1)(C)C | C23H28O4Si
reactant | 1-[2-(4-Iodo-phenoxy)-ethyl]-piperidine | IC1=CC=C(OCCN2CCCCC2)C=C1 | C13H18INO
product | 2-(8-(tert-Butyl-dimethyl-silyloxy)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-2,3-dihydro-benzo[b]oxepin-4-yl)-phenol | C(C)(C)(C)[Si](OC=1C=CC2=C(OCCC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)O)C2=C(C=CC=C2)O)C1)(C)C | C36H47NO5Si
